US03996277
2-Nitro-5-methylthiobenzotrifluoride
The sodium salt of methanethiol is formed by stirring a solution of methanethiol (100 g, 2.0 mole plus a slight excess), sodium hydroxide (80 g, 2.0 mole) and ethanol (2 l.) under nitrogen at 0°-5° C. for 1 hour. To this solution is rapidly added 5-chloro-2-nitrobenzotrifluoride (451.2 g, 2.0 mole). The solution is allowed to warm to room temperature overnight and then refluxed four hours, cooled, filtered and the solvent evaporated off under reduced pressure. The resulting oil is poured into cold water (1 l.), extracted with methylene chloride, dried over magnesium sulfate and the solvent evaporated under reduced pressure to afford a yellow solid. Recrystallization from hexane affords a product having a melting point of 47°-50° C.

reactant | methanethiol | CS | CH4S
reactant | sodium hydroxide | 2.0 mole, 80 g | [OH-].[Na+]
reactant | 5-chloro-2-nitrobenzotrifluoride | 2.0 mole, 451.2 g | ClC=1C=CC(=C(C1)C(F)(F)F)[N+](=O)[O-] | C7H3ClF3NO2
solvent | ethanol | 2 l | C(C)O | C2H6O
product | 2-Nitro-5-methylthiobenzotrifluoride | [N+](=O)([O-])C1=C(C=C(C=C1)SC)C(F)(F)F | C8H6F3NO2S
